US08748434B2
a) Methyl-(4-o-tolyl-pyrimidin-5-yl)-carbamic acid tert-butyl ester
Sodium hydride (75 mg, 1.87 mmol) was added to a stirring solution of (4-o-tolyl-pyrimidin-5-yl)-carbamic acid tert-butyl ester (410 mmol, 1.44 mmol) in tetrahydrofuran (10 mL) under Argon atmosphere. After 10 min., iodomethane (117 μL, 1.87 mmol) was added. The reaction mixture was stirred for 16 hours and then poured into saturated aqueous sodium bicarbonate solution and extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by removal of volatiles gave the crude product. Flash chromatography on silica gel (33% ethyl acetate in n-hexane) gave the product as a yellow solid (242 mg, 56%) which was pure enough for the next step.

reactant | Sodium hydride | 1.87 mmol, 75 mg | [H-].[Na+]
reactant | (4-o-tolyl-pyrimidin-5-yl)-carbamic acid tert-butyl ester | 410 mmol | C(C)(C)(C)OC(NC=1C(=NC=NC1)C1=C(C=CC=C1)C)=O | C16H19N3O2
reactant | iodomethane | 1.87 mmol, 117 μL | IC | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Methyl-(4-o-tolyl-pyrimidin-5-yl)-carbamic acid tert-butyl ester | 242 mg, 56% | C(C)(C)(C)OC(N(C=1C(=NC=NC1)C1=C(C=CC=C1)C)C)=O | C17H21N3O2
